US05116404
3-(4-chlorophenyl)-6-(2-chlorophenyl)-(1H,3H)-pyrimidine-2-thion-4-one (compound No. 1.43 of the present invention)
2.3 g of ethyl 3-amino-3-(2-chlorophenyl)-2-propenoate was added dropwise to a solution of 0.5 g of sodium hydride (purity: 55%) in 20 ml of dimethylformamide with stirring at 0° C. The mixed solution was stirred at room temperature for 15 minutes, then cooled to 0° C. and added with 1.7 g of 4-chlorophenyl isothiocyanate. The resulting solution was heated to room temperature and further stirred at 100° C. for one hour. Then the solvent was distilled away under reduced pressure and the residue was dissolved by adding 100 ml of water. This aqueous solution was washed twice with diethyl ether and added to a mixed solution of 50 g of ice and 20 ml of concentrated hydrochloric acid. The aqueous mixture was extracted with 100 ml of ethyl acetate, washed with water and a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then the solvent was distilled away to obtain 2.1 g of a crude product. This crude product was washed with heated diisopropyl ether and dried to obtain 1.0 g of the objective compound.

reactant | ethyl 3-amino-3-(2-chlorophenyl)-2-propenoate | 2.3 g | NC(=CC(=O)OCC)C1=C(C=CC=C1)Cl | C11H12ClNO2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 4-chlorophenyl isothiocyanate | 1.7 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(4-chlorophenyl)-6-(2-chlorophenyl)-(1H,3H)-pyrimidine-2-thion-4-one | 1.0 g | ClC1=CC=C(C=C1)N1C(NC(=CC1=O)C1=C(C=CC=C1)Cl)=S | C16H10Cl2N2OS
